US09278950B2
Step 3. 4-Methoxy-6,7-dihydro-5H-cyclopenta[b]pyridine
A mixture of 4-chloro-6,7-dihydro-5H-cyclopenta[b]pyridine (2.8 g, 18 mmol), MeOH (20 mL) and sodium methoxide (3.0 g, 56 mmol) was sealed in a pressurized flask and heated at 110° C. for 18 h. The mixture was diluted with EtOAc and neutralized with HCl to pH=1. The organic solvent was removed under reduced pressure. The resulting mixture was washed with ether twice, and neutralized with aq. Na2CO3. The aqueous layer was extracted twice with EtOAc. The combined organic extracts were dried, filtered and concentrated under reduced pressure to give the sub-title compound (1.20 g, 44%). LCMS calc. for C9H12NO (M+H)+: m/z=150.3. Found: 150.2.

reactant | 4-chloro-6,7-dihydro-5H-cyclopenta[b]pyridine | 18 mmol, 2.8 g | ClC1=C2C(=NC=C1)CCC2 | C8H8ClN
reactant | MeOH | 20 mL | CO | CH4O
reactant | sodium methoxide | 56 mmol, 3.0 g | C[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | HCl | Cl | ClH
product | 4-Methoxy-6,7-dihydro-5H-cyclopenta[b]pyridine | 1.20 g, 44% | COC1=C2C(=NC=C1)CCC2 | C9H11NO
